US09120777B2
A) 6-(4-Fluorophenyl)-2-hydroxynicotinonitrile
2-Cyanoacetamide (4.31 g) and 3-(dimethylamino)-1-(4-fluorophenyl)prop-2-en-1-one (9.00 g) were added in this order to a mixture of sodium hydride (60% oil, 4.10 g) and DMF (90 mL), and the resultant mixture was stirred at 105 C for 2 hours. The solvent was distilled off. Water was added to the obtained residue, and then, the mixture was rendered acidic by the addition of acetic acid and stirred at 70 C for 15 minutes. Methanol was added to the reaction mixture for suspension, and the deposited solid was washed with ethyl acetate to obtain the title compound (9.98 g).

reactant | 2-Cyanoacetamide | 4.31 g | C(#N)CC(=O)N | C3H4N2O
reactant | 3-(dimethylamino)-1-(4-fluorophenyl)prop-2-en-1-one | 9.00 g | CN(C=CC(=O)C1=CC=C(C=C1)F)C | C11H12FNO
reactant | sodium hydride | 4.10 g | [H-].[Na+]
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 6-(4-Fluorophenyl)-2-hydroxynicotinonitrile | 9.98 g | FC1=CC=C(C=C1)C1=NC(=C(C#N)C=C1)O | C12H7FN2O
